US05665718
4 g (11.2 mmol) of (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-8-chloro-12,12a-dihydro-9H,11H-azeto[2,1-c]-imidazo[1,5-a][1,4]benzodiazepin-9-one, 25 ml of N,N-dimethylformamide, 7.5 ml (43.7 mmol) of N-ethyldiisopropylamine and 2.9 ml (28 mmol) of 4-bromo-1-butene were stirred at 800 for 25 hours. The reaction solution was evaporated, the residue was dissolved in methylene chloride, this solution was washed three times with water, dried over magnesium sulfate and evaporated. The residue was chromatographed on 160 g of silica gel while eluting with methylene chloride/ethyl acetate 1/1. There were obtained 2.8 g (53%) of (S)-1-{3-[bis-(but-3-enyl)aminomethyl]-1,2,4-oxadiazol-5-yl}-8-chloro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one, which was converted into the hydrochloride of m.p. 115°-120°.

reactant | (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-8-chloro-12,12a-dihydro-9H,11H-azeto[2,1-c]-imidazo[1,5-a][1,4]benzodiazepin-9-one | 11.2 mmol, 4 g | NCC1=NOC(=N1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3Cl)=O)CC1 | C16H13ClN6O2
reactant | N-ethyldiisopropylamine | 43.7 mmol, 7.5 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-bromo-1-butene | 28 mmol, 2.9 ml | BrCCC=C | C4H7Br
reactant | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | (S)-1-{3-[bis-(but-3-enyl)aminomethyl]-1,2,4-oxadiazol-5-yl}-8-chloro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 2.8 g, 53% | C(CC=C)N(CCC=C)CC1=NOC(=N1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3Cl)=O)CC1 | C24H25ClN6O2
